US05741785
A mixture of 2,4-difluoronitrobenzene (36.6 g, 230 mmol), ethyl 4-methyl-5-imidazolecarboxylate (35.6 g, 231 mmol), potassium carbonate (36.5 g, 264.4 mmol) and acetonitrile (250 ml) was stirred at 25° C. for 96 h. The reaction mixture was filtered and the solvent removed under reduced pressure. The residue was submitted to flash chromatography on silica gel 60 eluting with toluene graduated to toluene/ethyl acetate (1:1) to give 30.5 g (65%) of 4-ethoxycarbonyl-5-methyl-1-(2-nitro-5-fluorophenyl)-1H-imidazole.

reactant | 2,4-difluoronitrobenzene | 230 mmol, 36.6 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | ethyl 4-methyl-5-imidazolecarboxylate | 231 mmol, 35.6 g | CC=1N=CNC1C(=O)OCC | C7H10N2O2
reactant | potassium carbonate | 264.4 mmol, 36.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 4-ethoxycarbonyl-5-methyl-1-(2-nitro-5-fluorophenyl)-1H-imidazole | 30.5 g, 65% | C(C)OC(=O)C=1N=CN(C1C)C1=C(C=CC(=C1)F)[N+](=O)[O-] | C13H12FN3O4
